US05914328
80a. 5-chloro-3-((1-methyl-2-(S)-azetidinyl)methoxy)pyridine
A 500 mg sample of 5-chloro-3-(N-t-butoxycarbonyl-2-(S)-azetidinylmethoxy)pyridine, prepared as in Example 39a above, was dissolved in 3 mL of 37% HCHO and 1.5 mL of HCOOH, and the reaction mixture was stirred at 100° C. for 40 minutes. The reaction was quenched by addition of H2O The mixture was adjusted to pH 7 with NaHCO3 and extracted with methylene chloride, the extract was dried over MgSO4, and the solvent was removed to give the title compound (181 mg). MS (DCI/NH3) m/e: 213/215 (M+H)+. 1H NMR (CDCl3, 300MHz) δ: 8.22 (d, J=2.5 Hz, 1H), 8.17 (d, J=1.9 Hz, 1H), 7.23 (dd, J=2.5, 1.9 Hz, 1H), 4.01 (d, J=5.1 Hz, 2H), 3.52-3.44 (m, 1H), 3.45-3.35 (m, 1H), 2.94-2.83 (m, 1H), 2.41 (s, 3H), 2..15-2.04 (m, 2H).

reactant | 5-chloro-3-(N-t-butoxycarbonyl-2-(S)-azetidinylmethoxy)pyridine | ClC=1C=C(C=NC1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C14H19ClN2O3
solvent | HCHO | 3 mL | C=O | CH2O
solvent | HCOOH | 1.5 mL | C(=O)O | CH2O2
product | 5-chloro-3-((1-methyl-2-(S)-azetidinyl)methoxy)pyridine | 181 mg | ClC=1C=C(C=NC1)OC[C@H]1N(CC1)C | C10H13ClN2O
